US07557213B2
Experimental conditions analogous to those described for Step 3 of Example 1 were used with 110 mg (0.352 mmol) of 3-(3-Fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one, 106.1 mg (0.423 mmol) of 2-bromo-6-bromomethyl-pyridine, 16.9 mg (0.423 mmol, 60% dispersion in oil), and 2 mL of N,N dimethylformamide. The crude product was purified by flash column chromatography using a gradient of 20-100% ethyl acetate in hexane and further purified on the reverse phase HPLC with a C18 column, gradient of 20-70% acetonitrile—0.1% TFA to yield 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3-fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one. LC-MSD, m/z for C23H17BrFN3O3 [M+H]: 482.04 LC retention time on HPLC, C18 column gradient 20-95% acetonitrile with 0.1% TFA in 4 minutes: 2.6 min.

reactant | 3-(3-Fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one | 0.352 mmol, 110 mg | FC=1C=C(C(=O)C2=CNC3=CC=C(N=C3C2=O)C)C=CC1OC | C17H13FN2O3
reactant | 2-bromo-6-bromomethyl-pyridine | 0.423 mmol, 106.1 mg | BrC1=NC(=CC=C1)CBr | C6H5Br2N
solvent | N,N dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-(6-Bromo-pyridin-2-ylmethyl)-3-(3-fluoro-4-methoxy-benzoyl)-6-methyl-1H-[1,5]naphthyridin-4-one | BrC1=CC=CC(=N1)CN1C=C(C(C2=NC(=CC=C12)C)=O)C(C1=CC(=C(C=C1)OC)F)=O | C23H17BrFN3O3
